US04812573
Benzenesulphonyl chloride (4.9 g, 0.028M) in CH2Cl2 (15 ml) was added dropwise over 10 minutes to a cooled stirred mixture of 6-aminoisoquinoline (4.0 g, 0.028M) and pyridine (2.37 g, 0.03M) in CH2Cl2 (150 ml). The reaction mixture was stirred overnight at room temperature and was then washed with H2O. The CH2Cl2 solution was dried over MgSO4 and was then chromatographed on a silica gel column. After evaporation the residue was recrystallised from isopropanol to yield 6-phenylsulphonamidoisoquinoline (2.28 g, 33%), m.p. 204°-6° C.

reactant | Benzenesulphonyl chloride | 0.028M, 4.9 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 6-aminoisoquinoline | 0.028M, 4.0 g | NC=1C=C2C=CN=CC2=CC1 | C9H8N2
reactant | pyridine | 0.03M, 2.37 g | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 6-phenylsulphonamidoisoquinoline | 2.28 g, 33% | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C2C=CN=CC2=CC1 | C15H12N2O2S
